US07320986B2
2-Amino-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol
A mixture of Pd2(dba)3 (0.0765 g) and Cy-MAP (0.165 g) in degassed 1,4-dioxane (6 mL) was stirred at room temperature for 30 minutes. To the above mixture was added 2-amino -4-chloro-phenol (0.300 g, 2.09 mmol), bis(pinacolato) diboron (0.557 g, 2.19 mmol), and KOAc (0.308 g, 3.14 mmol). The reaction mixture was heated at 85° C. overnight, allowed to cool to room temperature, concentrated under reduced pressure and the residue was treated with EtOAc. The ethyl acetate layer was washed with brine, dried over MgSO4, filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography eluting with hexanes/EtOAc (7:3 to 1:1) to give 0.273 g (69%) of the desired product as brown solid. MS (DCI/NH3) m/z: 235.8 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 1.24 (s, 12H), 3.92 (s, 1H), 6.62 (d, J=7.80 Hz, 1H), 6.78 (dd, J=7.63, 1.53 Hz, 1H), 6.96 (d, J=1.36 Hz, 1H).

reactant | 2-amino -4-chloro-phenol | 2.09 mmol, 0.300 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | bis(pinacolato) diboron | 2.19 mmol, 0.557 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 3.14 mmol, 0.308 g | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.0765 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Amino-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 0.273 g, 69% | NC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C12H18BNO3
